US08404687B2
(S)-tert-Butyl 4-(4-chlorophthalazin-1-yl)-2-methylpiperazine-1-carboxylate
Heat a mixture of 1,4-dichlorophthalazine (7.80 g, 39.2 mmol), (S)-tert-butyl 2-methylpiperazine-1-carboxylate (4.98 g, 24.9 mmol) and triethylamine (10.3 mL, 73.9 mmol) in DMSO (110 mL) at 80° C. for 18 h. Pour the reaction mixture into water, rinsing with EtOAc. Extract with EtOAc. Wash the organic layer with water (2×) and brine, and dry over Na2SO4, and concentrate under reduced pressure. Purify the resulting residue by flash silica gel chromatography (gradient of 20% to 80% EtOAc in hexanes) to provide the title compound (4.13 g, 46%). ES/MS m/z (35Cl) 363.0 (M+1).

reactant | 1,4-dichlorophthalazine | 39.2 mmol, 7.80 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | (S)-tert-butyl 2-methylpiperazine-1-carboxylate | 24.9 mmol, 4.98 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 73.9 mmol, 10.3 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMSO | 110 mL | CS(=O)C | C2H6OS
product | (S)-tert-Butyl 4-(4-chlorophthalazin-1-yl)-2-methylpiperazine-1-carboxylate | 4.13 g, 46% | ClC1=NN=C(C2=CC=CC=C12)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C18H23ClN4O2
